US07893074B2
To a solution of 4-methyl-3-nitro-benzoic acid (300 mg, 2.76 mmol), N-butoxycarbonyl-piperazine (340 mg, 1.83 mmol) in DMF (3.0 mL), triethylamine (300 μL, 3.59 mmol), TBTU (800 mg, 2.49 mmol) and HOAt (270.5 mg, 1.99 mmol) are added and stirred at room temperature for 24 hours. The mixture is poured into water and extracted twice with ethyl acetate. The organic layer is washed with water and then brine, dried over magnesium sulfate, and evaporated in vacuo. The residue is purified with silica gel column chromatography (n-hexane:ethyl acetate=5:1) to afford 4-(4-methyl-3-nitrobenzoyl)-piperazine-1-carboxylic acid tert-butyl ester as a colorless solid.

reactant | 4-methyl-3-nitro-benzoic acid | 2.76 mmol, 300 mg | CC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C8H7NO4
reactant | N-butoxycarbonyl-piperazine | 1.83 mmol, 340 mg | C(CCC)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | triethylamine | 3.59 mmol, 300 μL | C(C)N(CC)CC | C6H15N
reactant | TBTU | 2.49 mmol, 800 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | HOAt | 1.99 mmol, 270.5 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
solvent | DMF | 3.0 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-(4-methyl-3-nitrobenzoyl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C(C1=CC(=C(C=C1)C)[N+](=O)[O-])=O | C17H23N3O5
